US06281227B1
F. 2-[3-(S)-(6-Chloro-benzo[b]thiophene-2-sulfonylamino)-2-oxopyrrolidin-1-ylmethyl]-pyrrolo[3,2-b]pyridine-1-carboxylic acid ethyl ester
The title compound is prepared as described in EXAMPLE 1, Part K using 6-chloro-benzo[b]thiophene-2-sulfonyl chloride and 2-(3-(S)-amino-2-oxopyrrolidin-1-ylmethyl)-pyrrolo[3,2-b]pyridine-1-carboxylic acid ethyl ester hydrochloride as starting material. The crude product is purified by column chromatography eluting with 60% EtOAc/CH2Cl2 to provide the title compound as a solid.

reactant | 6-chloro-benzo[b]thiophene-2-sulfonyl chloride | ClC=1C=CC2=C(SC(=C2)S(=O)(=O)Cl)C1 | C8H4Cl2O2S2
reactant | 2-(3-(S)-amino-2-oxopyrrolidin-1-ylmethyl)-pyrrolo[3,2-b]pyridine-1-carboxylic acid ethyl ester hydrochloride | Cl.C(C)OC(=O)N1C(=CC2=NC=CC=C21)CN2C([C@H](CC2)N)=O
product | 2-[3-(S)-(6-Chloro-benzo[b]thiophene-2-sulfonylamino)-2-oxopyrrolidin-1-ylmethyl]-pyrrolo[3,2-b]pyridine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1C(=CC2=NC=CC=C21)CN2C([C@H](CC2)NS(=O)(=O)C2=CC1=C(S2)C=C(C=C1)Cl)=O | C23H21ClN4O5S2
